US05618814
8-(N-benzyl-N-methyl-amino)-2-[4-(N,N-dimethylaminomethyl)-piperidino]-4-morpholino-pyrimido [5,4-d]pyrimidine From 2-chloro-8-(N-benzyl-N-methyl-amino)-4-morpholino-pyrimido[5,4-d]pyrimidine and 4-(N,N-dimethylaminomethyl)-piperidine Yield: 30.6% of theory, Melting point: 145°-147° C. C26H36N8O (476.63)

reactant | 8-(N-benzyl-N-methyl-amino)-2-[4-(N,N-dimethylaminomethyl)-piperidino]-4-morpholino-pyrimido [5,4-d]pyrimidine | C(C1=CC=CC=C1)N(C)C1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCC(CC2)CN(C)C | C26H36N8O
reactant | 2-chloro-8-(N-benzyl-N-methyl-amino)-4-morpholino-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)N(C)CC2=CC=CC=C2)N2CCOCC2 | C18H19ClN6O
product | 4-(N,N-dimethylaminomethyl)-piperidine | Yield: 30.6% | CN(C)CC1CCNCC1 | C8H18N2
